US06797723B1
Preparation of 2-{3-[3-(2-Ethyl-4-furan-2-yl-5-hydroxyphenoxy)propoxy]-2-propylphenoxy}-benzoic acid sodium salt.
A mixture of 2-(3-{3-[4-bromo-5-(tert-butyldimethylsilanyloxy)-2-ethylphenoxy]propoxy}-2-propylphenoxy)benzoic acid methyl ester (1.05 g, 1.60 mmol), furan-2-boronic acid (0.358 g, 3.20 mmol), tetrakis(triphenylphosphine)palladium(0) (0.185 g, 0.160 mmol), and 2 M aqueous sodium carbonate solution (8 mL) in tetrahydrofuran (20 mL) was heated at reflux for 18 h. The mixture was cooled to room temperature, diluted with water, and extracted with ethyl acetate. The organic layer was separated, washed once with water, once with saturated sodium chloride solution, dried (sodium sulfate), filtered, and concentrated in vacuo. Chromatography (silica gel, 10% ethyl acetate/90% hexane) of the residue provided 0.8 g (94%) of the title compound as a colorless oil. 1H NMR (CDCl3) δ 7.90 (d, J=9 Hz, 1H), 7.48 (s, 1H), 7.38 (t, J=8 Hz, 1H), 7.21 (s 1H), 7.13 (s, 1H), 7.10 (d, J=9 Hz, 1H), 7.07 (d, J=2 Hz, 1H), 6.81 (d, J=9 Hz, 1H), 6.69 (d, J=9 Hz, 1H), 6.52 (m, 3H), 6.44 (d, J=9 Hz, 1H), 4.20 (m, 4H), 3.83 (s, 3H), 2.67 (t, J=8 Hz, 2H), 2.59 (q, J=7 Hz, 2H), 2.32 (quintet, J=6 Hz, 2H), 1.55 (hextet, J=8 Hz, 2H), 1.18 (t, J=7 Hz, 3H), 0.91 (t, J=7 Hz, 3H); MS ES− m/z=589 (p+AcO−). Anal. Calcd for C32H34O7: C, 72.43; H, 6.46. Found: C, 72.21; H, 6.15.

reactant | 2-(3-{3-[4-bromo-5-(tert-butyldimethylsilanyloxy)-2-ethylphenoxy]propoxy}-2-propylphenoxy)benzoic acid methyl ester | 1.60 mmol, 1.05 g | COC(C1=C(C=CC=C1)OC1=C(C(=CC=C1)OCCCOC1=C(C=C(C(=C1)O[Si](C)(C)C(C)(C)C)Br)CC)CCC)=O | C34H45BrO6Si
reactant | furan-2-boronic acid | 3.20 mmol, 0.358 g | O1C(=CC=C1)B(O)O | C4H5BO3
reactant | sodium carbonate | 2 M, 8 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.160 mmol, 0.185 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-{3-[3-(2-Ethyl-4-furan-2-yl-5-hydroxyphenoxy)propoxy]-2-propylphenoxy}-benzoic acid sodium salt | 0.8 g, 94% | [Na+].C(C)C1=C(OCCCOC=2C(=C(OC3=C(C(=O)[O-])C=CC=C3)C=CC2)CCC)C=C(C(=C1)C=1OC=CC1)O | InChI=1S/C31H32O7.Na/c1-3-10-22-26(13-7-14-28(22)38-29-12-6-5-11-23(29)31(33)34)36-17-9-18-37-30-20-25(32)24(19-21(30)4-2)27-15-8-16-35-27;/h5-8,11-16,19-20,32H,3-4,9-10,17-18H2,1-2H3,(H,33,34);/q;+1/p-1
